US04029658
6. Allyl methyl morpholinium chloride
20.2 grams of N-methyl morpholine was added to 50 grams of allyl chloride. A crystalline solid separated within 2 hours. After 18 days at 25° C. the solid was separated, washed with ethyl acetate, and dried. The product melted at 175°-185° C. with decomposition and contained 100.5% of the theoretical chloride content.

reactant | N-methyl morpholine | 20.2 grams | CN1CCOCC1 | C5H11NO
reactant | allyl chloride | 50 grams | C(C=C)Cl | C3H5Cl
product | Allyl methyl morpholinium chloride | [Cl-].C(C=C)[N+]1(CCOCC1)C | InChI=1S/C8H16NO.ClH/c1-3-4-9(2)5-7-10-8-6-9;/h3H,1,4-8H2,2H3;1H/q+1;/p-1
